US05035987
A) 4-(n-pentylcarbonyloxymethylthio)-1,2,3-triazole
23.1 g hexanoic acid chloromethyl ester are added over a period of 30 minutes with stirring to 17.2 g 4-mercapto-1,2,3-triazole, sodium salt, in 100 ml dimethyl formamide. After 2 h, the mixture is added to 600 ml ice water and the oil formed is taken up in ethyl acetate.

reactant | hexanoic acid chloromethyl ester | 23.1 g | ClCOC(CCCCC)=O | C7H13ClO2
reactant | 4-mercapto-1,2,3-triazole | 17.2 g | SC=1N=NNC1 | C2H3N3S
reactant | sodium | [Na] | Na
solvent | dimethyl formamide | 100 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(n-pentylcarbonyloxymethylthio)-1,2,3-triazole | C(CCCC)C(=O)OCSC=1N=NNC1 | C9H15N3O2S
